US05322848
(3R)-N-benzyloxycarbonyl-3-(toluene-4-sulfonyloxy)pyrrolidine
22.25 g (0.117 moles) of toluene-4-sulfonyl chloride, dissolved in 30 ml of pyridine, were added dropwise to a stirred solution of 11.79 g (0.053 moles) of (3R)-N-benzyloxycarbonyl-3-hydroxypyrrolidine [J. Chem. Soc., Chem. Commun. 1984, 1298]in 50 ml of pyridine, cooled below 0° C. After the addition, the reaction mixture was kept at 5° C. for 48 hours.

reactant | toluene-4-sulfonyl chloride | 0.117 moles, 22.25 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (3R)-N-benzyloxycarbonyl-3-hydroxypyrrolidine | 0.053 moles, 11.79 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](CC1)O | C12H15NO3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (3R)-N-benzyloxycarbonyl-3-(toluene-4-sulfonyloxy)pyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C19H21NO5S
